US07074798B2
4-[7-(2-Chlorophenyl)-1-(2,2-dimethylpropionyloxymethyl)-3-methoxycarbonylmethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (139 mg) was dissolved in tetrahydrofuran (1 ml) and methanol (1 ml), and sodium hydride (10 mg) was added to the solution. Then, the mixture was stirred at room temperature for 1 hour. The mixture was neutralized by adding 1N Hydrochloric acid, and was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and filtered. The solvent was removed by distillation to give 100 mg of 4-[7-(2-chlorophenyl)-3-methoxycarbonylmethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester. This compound was dissolved in N,N-dimethylformamide (2 ml) and potassium carbonate (20 mg) and methyl iodide (0.02 ml) were added to the solution. The mixture was stirred at room temperature for 3 days. The mixture was diluted with ethyl acetate, and washed with water and 1N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate, and filtered. The solvent was removed by distillation to give 108 mg of the title compound.

reactant | 4-[7-(2-Chlorophenyl)-1-(2,2-dimethylpropionyloxymethyl)-3-methoxycarbonylmethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 139 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)Cl)=O)COC(C(C)(C)C)=O)=O)CC(=O)OC | C29H37ClN6O8
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 4-[7-(2-chlorophenyl)-3-methoxycarbonylmethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1C1=C(C=CC=C1)Cl)=O)=O)CC(=O)OC | C23H27ClN6O6
